US06008230
To a solution of 8-(2,6-dichlorobenzoylamino)-3-ethyl-4-(2-hydroxyethyl)quinoline (405 mg) in dichloromethane were added N-bromosuccinimide (241 mg) and triphenylphosphine (355 mg) under water cooling, and the mixture was stirred for 30 minutes at the same temperature. The mixture was concentrated in vacuo, and the residue was purified by column chromatography on silica gel (dichloromethane) and crystallized from n-hexane to give 4-(2-bromoethyl)-8-(2,6-dichlorobenzoylamino)-3-ethylquinoline (424 mg).

reactant | 8-(2,6-dichlorobenzoylamino)-3-ethyl-4-(2-hydroxyethyl)quinoline | 405 mg | ClC1=C(C(=O)NC=2C=CC=C3C(=C(C=NC23)CC)CCO)C(=CC=C1)Cl | C20H18Cl2N2O2
reactant | N-bromosuccinimide | 241 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | triphenylphosphine | 355 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-(2-bromoethyl)-8-(2,6-dichlorobenzoylamino)-3-ethylquinoline | 424 mg | BrCCC1=C(C=NC2=C(C=CC=C12)NC(C1=C(C=CC=C1Cl)Cl)=O)CC | C20H17BrCl2N2O
